US05472967
6-butyl-2-[2-(napht-2-yl)ethyl]-5-[[2'-(1H-tetrazol-5yl)[1,1'-biphenyl]-4-yl]methyl]-pyrimidin-4(1H)-one.
Following example 4.2, a mixture of 1.75 g of 3-(napht-2yl)propanimidamide and 3.3 g of methyl 3-oxo-2-[[2'-(1-[1,1-dimethylethyl]-1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]heptanoate is heated at 100° C., for 3.50 hours. The product is purified by chromatography on silica gel column by eluting with a mixture of dichloromethane and methanol, to obtain 2.9 g of the product in the form of a pale yellow paste. 1.5 g of the foregoing product are dissolved in a 30% solution of bromhydric acid in acetic acid. It is heated at 90° C., for 5 hours and evaporated under vacuum. The residue is taken up with dichloromethane. The organic phase is washed with water and dried on sodium sulfate. The solvent is evaporated to give 1.1 of the product in the form of a beige powder. The crude product is purified by chromatography on silica gel column by eluting with a mixture of dichloromethane and methanol, to obtain 0.63 g of the product in the form of a white powder.

reactant | 3-(napht-2yl)propanimidamide | 1.75 g | C1=C(C=CC2=CC=CC=C12)CCC(N)=N | C13H14N2
reactant | methyl 3-oxo-2-[[2'-(1-[1,1-dimethylethyl]-1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]methyl]heptanoate | 3.3 g | O=C(C(C(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C)(C)C)CCCC | C26H32N4O3
product | 6-butyl-2-[2-(napht-2-yl)ethyl]-5-[[2'-(1H-tetrazol-5yl)[1,1'-biphenyl]-4-yl]methyl]-pyrimidin-4(1H)-one | 2.9 g | C(CCC)C1=C(C(N=C(N1)CCC1=CC2=CC=CC=C2C=C1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C34H32N6O
